US08022223B2
Step A: Preparation of 5-bromo-3-phenoxypyrazin-2-amine:
Added sodium hydride (0.348 g, 8.70 mmol) to a solution of phenol (0.819 g, 8.70 mmol) in THF (50 mL) at 0° C. and stirred 30 minutes. Added 3,5-dibromopyrazin-2-amine (2.00 g, 7.91 mmol) in THF (10 mL). Removed the ice bath and refluxed overnight. Partitioned between ethyl acetate and water, washed with brine, dried, and concentrated. Purified by MPLC (Biotage) eluting with 5:1 hexane:ethyl acetate to afford the title compound (1.36 g, 64.6% yield) as a light yellow solid.

reactant | sodium hydride | 8.70 mmol, 0.348 g | [H-].[Na+]
reactant | phenol | 8.70 mmol, 0.819 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3,5-dibromopyrazin-2-amine | 7.91 mmol, 2.00 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-phenoxypyrazin-2-amine | 1.36 g, 64.6% yield | BrC=1N=C(C(=NC1)N)OC1=CC=CC=C1 | C10H8BrN3O
